US07550474B2
e. {6-Cyano-3-[[2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethyl]-(2,2,2-trifluoro-acetyl)-amino]-2-fluoro-phenyl}-acetic Acid Ethyl Ester
{6-Cyano-3-[2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic acid ethyl ester (119.1 mg, 0.316 mmol), as prepared in the preceding step, was dissolved in CH2Cl2 (2 mL). To this solution were added DIEA (0.066 mL, 0.379 mmol) and TFAA (0.220 mL, 1.58 mmol) dropwise at 0° C. After 3 hours, the reaction mixture was partitioned between CH2Cl2 and water. The organic layers were combined, dried over Na2SO4, and evaporated. The residue was purified by flash column chromatography on silica gel (EtOAc/hexanes 1/1, v/v) to afford the desired product (142 mg, 95%). 1H NMR (CDCl3) δ 7.73 (t, J=8.79 Hz, 1H), 7.70 (t, J=7.88 Hz, 1H), 7.58 (t, J=7.77 Hz, 1H), 7.48 (t, J=8.44 Hz, 1H), 7.24 (t, J=7.55 Hz, 1H), 5.07 (m, 2H), 4.25 (q, J=7.16 Hz, 2H), 3.94 (d, J=1.17 Hz, 2H), 2.49 (s, 3H), 1.26 (t, J=7.14 Hz, 3H); LC/MS (m/z) [M+1] 474.3 (calculated for C21H18F6N3O3, 474.1).

reactant | {6-Cyano-3-[2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic acid ethyl ester | 0.316 mmol, 119.1 mg | C(C)OC(CC1=C(C(=CC=C1C#N)NCC(C1=NC(=CC=C1)C)(F)F)F)=O | C19H18F3N3O2
reactant | DIEA | 0.379 mmol, 0.066 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFAA | 1.58 mmol, 0.220 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | {6-Cyano-3-[[2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethyl]-(2,2,2-trifluoro-acetyl)-amino]-2-fluoro-phenyl}-acetic Acid Ethyl Ester | 142 mg, 95% | C(C)OC(CC1=C(C(=CC=C1C#N)N(C(C(F)(F)F)=O)CC(C1=NC(=CC=C1)C)(F)F)F)=O | C21H17F6N3O3
